US05736557
α,α'-Diamino-ortho-xylene (see Example 1)
12.3 g of α,α'-dibromoxylene and 17.3 g of potassium phthalimide are stirred in 390 ml of N,N-dimethylformamide at a bath temperature of 150° C. for 2.4 hours. After cooling the resulting intermediate is filtered off under suction, washed with ethyl acetate, dried and then reacted in 200 ml of ethanol with 4.6 ml of hydrazine hydrate under reflux. After cooling the resulting suspension is treated with 50 ml of 25% hydrochloric acid, filtered and concentrated to 1/3 of its volume. After repeated filtration the mixture is adjusted to pH 14 by the addition of concentrated sodium hydroxide solution and evaporated. The product is dissolved out from the residue with 300 ml of methylene chloride. After evaporation of the solvent the residue as is taken up in 25 ml of isopropanol and the dihydrochloride of the product is crystallized with 20 ml of 3.26N isopropanolic hydrochloric acid. There are obtained 2.64 g, colourless crystals; m.p.:>250° C.

reactant | α,α'-dibromoxylene | 12.3 g | BrCC=1C(=CC=CC1)CBr | C8H8Br2
reactant | potassium phthalimide | 17.3 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | hydrochloric acid | 50 ml | Cl | ClH
reactant | N,N-dimethylformamide | 390 ml | CN(C=O)C | C3H7NO
product | α,α'-Diamino-ortho-xylene | NCC=1C(=CC=CC1)CN | C8H12N2
